US06444668B1
3-(4,4-Dimethyl-8-hydroxy-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6yl)-5-fluorobenzonitrile
A mixture of 3-(4,4-dimethyl-8-methoxy-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-5-fluorobenzonitrile (0.1 g, 0.31 mmol), Lithium iodide (0.3 g, 2.24 mmol) in 2,4,6-collidine was heated at reflux under nitrogen for 5 hours. The solvent was removed in vacuo and the residue was taken in a mixture of brine (10 mL) and ethyl acetate (30 mL). The organic layer was separated, dried (MgSO4), and evaporated. The resultant residue was purified on a silica gel column chromatography (hexane:ethyl acetate/1:1) to give the title compound as white plates (0.03 mg, 31%): mp 197-198° C.; 1H-NMR (DMSO-d6) δ10.16 (s, 1H), 9.55 (s, 1H), 8.01 (s, 1H), 7.79-7.87 (m, 2H), 7.20 (s, 1H), 7.08 (d, 1H, J=1.0 Hz), 1.65 (s, 6H). MS (ESI) m/z 311 [M−H]−.

reactant | 3-(4,4-dimethyl-8-methoxy-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-5-fluorobenzonitrile | 0.31 mmol, 0.1 g | CC1(OC(NC2=C1C=C(C=C2OC)C=2C=C(C#N)C=C(C2)F)=O)C | C18H15FN2O3
reactant | Lithium iodide | 2.24 mmol, 0.3 g | [I-].[Li+]
solvent | 2,4,6-collidine | N1=C(C=C(C=C1C)C)C | C8H11N
product | 3-(4,4-Dimethyl-8-hydroxy-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6yl)-5-fluorobenzonitrile | CC1(OC(NC2=C1C=C(C=C2O)C=2C=C(C#N)C=C(C2)F)=O)C | C17H13FN2O3
